US05872118
A mixture of ethyl 4-fluorocinnamate (47.5 g, 0.228 mol) and 10% palladium on carbon (0.85 g, Aldrich) in 95% ethanol was shaken in a Parr hydrogenator under 2-3 atm of H2 pressure for 1 h. The mixture was filtered and concentrated by spin evaporation in vacuo. Fractional distillation gave 46.5 g (97%) of ethyl 3-(4-fluorophenyl)butyrate as a clear oil, b.p., 122°-128° C.: c) Preparation of 3-(4-Fluorophenyl)butanoic Acid.

reactant | ethyl 4-fluorocinnamate | 0.228 mol, 47.5 g | FC1=CC=C(C=CC(=O)OCC)C=C1 | C11H11FO2
reactant | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | 0.85 g | [Pd] | Pd
product | ethyl 3-(4-fluorophenyl)butyrate | 46.5 g, 97% | FC1=CC=C(C=C1)C(CC(=O)OCC)C | C12H15FO2
